US08937092B2
2-(4-Nitrobenzyl)isoindoline-1,3-dione (1.4 g, 4.96 mmol) was dissolved in tetrahydrofuran (8 mL). To the solution hydrazine monohydrate (1.48 mL, 19.84 mmol) and p-toluenesulfonic acid monohydrate (94 mg, 0.5 mmol) was added. It was refluxed for 6 h. TLC showed complete consumption of starting material. The mixture was extracted with ethyl acetate and washed with water and brine. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The crude was purified by column chromatography to give (4-nitrophenyl)methanamine (651 mg, 86%).

reactant | 2-(4-Nitrobenzyl)isoindoline-1,3-dione | 4.96 mmol, 1.4 g | [N+](=O)([O-])C1=CC=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C1 | C15H10N2O4
reactant | hydrazine monohydrate | 19.84 mmol, 1.48 mL | O.NN
reactant | p-toluenesulfonic acid monohydrate | 0.5 mmol, 94 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | (4-nitrophenyl)methanamine | 651 mg, 86% | [N+](=O)([O-])C1=CC=C(C=C1)CN | C7H8N2O2
